US04731358
2.5 g of 6-piperidino-4-methyl-β-carboline-3-carboxylic acid are heated with 520 mg of copper powder in 50 ml of quinoline for 1.5 hours to 190°-220° C. bath temperature. After distilling off the quinoline in a bulb tube, it is dispersed in ethyl acetate/10% aqueous ammonia. The precipitate that is formed is filtered off and absorptively precipated with ethanol. The combined evaporation residue of the ethanol extraction and the ethyl acetate phase yields 690 mg of 6-piperidino-4-methyl-β-carboline with a 235°-238° C. (decomposition) melting point by crystallization from ethylacetate/diisopropylether.

reactant | 6-piperidino-4-methyl-β-carboline-3-carboxylic acid | 2.5 g | N1(CCCCC1)C=1C=C2C=3C(=C(N=CC3NC2=CC1)C(=O)O)C | C18H19N3O2
solvent | quinoline | 50 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper | 520 mg | [Cu] | Cu
product | 6-piperidino-4-methyl-β-carboline | 690 mg | N1(CCCCC1)C=1C=C2C=3C(=CN=CC3NC2=CC1)C | C17H19N3
